US07235572B2
b] [4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid
A mixture of [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile (8.86 g, 31 mmol), sodium hydroxide (12.5 g, 314 mmol), water (160 ml) and ethanol (160 ml) was stirred vigorously at 100° C. for 2.5 h. The reaction mixture was poured onto crushed ice and aqueous HCl and extracted three times with dichloromethane. The combined extracts were washed with water and brine, and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave 9.5 g (quant.) of the title compound as light yellow solid.

reactant | [4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetonitrile | 31 mmol, 8.86 g | CC=1N=C(SC1CC#N)C1=CC=C(C=C1)C(F)(F)F | C13H9F3N2S
reactant | sodium hydroxide | 314 mmol, 12.5 g | [OH-].[Na+]
reactant | water | 160 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | [4-Methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-acetic acid | CC=1N=C(SC1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C13H10F3NO2S
